US08314117B2
(6S,9S)-6-(2,3-difluorophenyl)-9-(triisopropylsilyloxy)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-6-ol.
In an oven-dried 250 mL round-bottom flask was dissolved 1,2-difluorobenzene (0.680 mL, 6.90 mmol) in tetrahydrofuran (12 mL) under nitrogen. After cooling to −65° C., n-BuLi (1M in hexanes, 2.208 mL, 5.52 mmol) was added dropwise via syringe. After the mixture was stirred between −65 and −60° C. for 30 min, it was cooled down to −78° C. A solution of (S)-9-(triisopropylsilyloxy)-8,9-dihydro-5H-cyclohepta[b]pyridin-6(7H)-one (920.5 mg, 2.76 mmol) (80304-043) in tetrahydrofuran (4 mL plus 4 mL rinse) was added via syringe (turned to yellow) and the reaction was stirred at −78° C. for 1 h (yellow color), and at room temperature for 30 min (red color). LCMS indicated good conversion. The reaction was quenched by saturated NH4Cl solution. Tetrahydrofuran was removed and the residue was partitioned between water and ethyl acetate. The layers were separated. The organic layer was washed with brine, dried with sodium sulfate, and concentrated to give a tan oil. Purification by FCC up to 80% ethyl acetate/hexane afforded the recovered SM (197 mg, 21%) as a yellow oil as well as the desired products (977 mg, 79%) as a colorless oil. MS(ESI)[M+H+]=448.33; 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 8.26 (d, J=3.53 Hz, 1H) 7.42 (t, J=6.42 Hz, 1H) 7.35 (d, J=7.30 Hz, 1H) 6.99-7.13 (m, 3H) 5.16 (br. s., 1H) 4.63 (d, J=13.85 Hz, 1H) 3.02-3.28 (m, 1H) 2.71 (d, J=14.10 Hz, 1H) 2.34 (d, J=4.03 Hz, 1H) 2.02-2.15 (m, 2H) 1.75 (d, J=13.85 Hz, 1H) 1.06-1.19 (m, J=14.67, 7.27, 7.27, 7.05 Hz, 3H) 0.97-1.07 (m, 9H) 0.84-0.97 (m, 9H).

reactant | 1,2-difluorobenzene | 6.90 mmol, 0.680 mL | FC1=C(C=CC=C1)F | C6H4F2
reactant | n-BuLi | 5.52 mmol, 1M, 2.208 mL | [Li]CCCC
reactant | (S)-9-(triisopropylsilyloxy)-8,9-dihydro-5H-cyclohepta[b]pyridin-6(7H)-one | 2.76 mmol, 920.5 mg | C(C)(C)[Si](O[C@H]1CCC(CC=2C1=NC=CC2)=O)(C(C)C)C(C)C | C19H31NO2Si
solvent | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | (6S,9S)-6-(2,3-difluorophenyl)-9-(triisopropylsilyloxy)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-6-ol | 977 mg, 79% | FC1=C(C=CC=C1F)[C@]1(CC=2C(=NC=CC2)[C@H](CC1)O[Si](C(C)C)(C(C)C)C(C)C)O | C25H35F2NO2Si
